US07714009B2
N2-Mesityl-N7,N7-dipropyl-1,3-benzoxazole-2,7-diamine
To a flask was added 0.10 g (0.34 mmol) of N-mesityl-7-nitro-1,3-benzoxazol-2-amine and 40 ml of methanol. The flask was purged with nitrogen followed by the addition of 0.01 g of 10% palladium on carbon. The flask was evacuated and pressurized to 2-3 psig hydrogen and stirred for 1 h. After completion as determined by HPLC, the reaction was filtered through GF/F filter paper. The filtrate was transferred to round bottom flask and 0.1 ml (1.7 mmol) of propionaldehyde, 0.1 g (1.7 mmol) of NaBH3CN and 1 ml of acetic acid were added. The mixture was stirred overnight, then diluted with ethyl acetate and washed with water. The organic phase was dried over magnesium sulfate. Filtration, removal of solvent and purification of the residue via Biotage chromatography eluting with 5% methanol/dichloromethane gave 0.11 g (90% for 2 steps) of product.

reactant | N-mesityl-7-nitro-1,3-benzoxazol-2-amine | 0.34 mmol, 0.10 g | C1(=C(C(=CC(=C1)C)C)NC=1OC2=C(N1)C=CC=C2[N+](=O)[O-])C | C16H15N3O3
reactant | methanol | 40 ml | CO | CH4O
reactant | propionaldehyde | 1.7 mmol, 0.1 ml | C(CC)=O | C3H6O
reactant | NaBH3CN | 1.7 mmol, 0.1 g | [BH3-]C#N.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | N2-Mesityl-N7,N7-dipropyl-1,3-benzoxazole-2,7-diamine | C1(=C(C(=CC(=C1)C)C)NC=1OC2=C(N1)C=CC=C2N(CCC)CCC)C | C22H29N3O
